US07842696B2
A solution of Biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide (prepared by the method as described above) (115 mg, 0.21 mmol) in DCM (5 ml) was cooled to −78° C. To the resulting mixture added BBr3 (357 mg, 1.42 ml, 1.43 mmol) and stirred at same temperature for 4 hrs. The reaction mixture was brought to −30° C. and quenched with cold MeOH dropwise, concentrated the mixture under reduced pressure to get the residue. The obtained residue was purified by preparative HPLC to afford 33 mg (29.5% yield) Biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-hydroxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 98.95%. 1H NMR (DMSO-d6): δ 10.1 (s, 1H), 8.7-8.6 (bs, 1H), 8.0-7.9 (d, 2H), 7.8-7.7 (dd, 4H), 7.5-7.4 (m, 4H), 6.8-6.7 (t, 2H), 4.24-4.1 (dd, 2H), 3.74-3.44 (m, 6H), 3.24-3.1 (bd, 2H).

reactant | Biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-methoxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | BrC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=C(C=C1)OC | C27H26BrN3O4
reactant | BBr3 | 1.43 mmol, 1.42 ml, 357 mg | B(Br)(Br)Br | BBr3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | Biphenyl-4-carboxylic acid {2-[4-(2-bromo-5-hydroxy-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 33 mg, 29.5% yield | BrC1=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=C(C=C1)O | C26H24BrN3O4
